US07557114B2
(a) 3-(2-Benzyl-2,3-Dihydro-1H-isoindol-5-yl)-tetrahydro-furan-3-ol
Prepared in analogy to Example A62(b) from 2-benzyl-5-bromo-2,3-dihydro-1H-isoindole (Example A62(a)) and tetrahydrofuran-3-one. Brown oil. MS (m/e): 296.4 ([M+H]+, 100%).

reactant | 2-benzyl-5-bromo-2,3-dihydro-1H-isoindole | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)Br | C15H14BrN
reactant | tetrahydrofuran-3-one | O1CC(CC1)=O | C4H6O2
product | 3-(2-Benzyl-2,3-Dihydro-1H-isoindol-5-yl)-tetrahydro-furan-3-ol | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C1(COCC1)O | C19H21NO2
